US09023760B2
Preparation of 4-Cyclopropylamino-1-methoxy-piperidine-4-carbonitrile (compound P5.2)
To a solution of cyclopropylamine (1.4 ml, 1.14 g, 20.0 mmol) in methanol (20 ml) at 0° C. was added 1N hydrochloric acid (20 ml, 20.0 mmol) dropwise and the mixture was stirred at room temperature for 30 minutes. 1-Methoxy-piperidin-4-one [prepared according to Journal of Organic Chemistry (1961), 26, 1867-74] (2.58 g, 20.0 mmol), followed 10 minutes later by potassium cyanide (1.3 g, 20.0 mmol) in water (10 ml) were then added dropwise at 0° C. The reaction mixture was warmed to room temperature and stirred overnight, diluted with water and diethyl ether, the layers separated and the aqueous phase thoroughly extracted with diethyl ether. The combined organic layers were washed with brine, dried over sodium sulfate and evaporated. Yield: 3.19 g of 4-cyclopropylamino-1-methoxy-piperidine-4-carbonitrile (title compound P5.2) as an oil. This material was used without further purification in the next step.

reactant | cyclopropylamine | 20.0 mmol, 1.4 ml, 1.14 g | C1(CC1)N | C3H7N
reactant | hydrochloric acid | 20.0 mmol, 1N, 20 ml | Cl | ClH
reactant | 1-Methoxy-piperidin-4-one | 20.0 mmol, 2.58 g | CON1CCC(CC1)=O | C6H11NO2
reactant | potassium cyanide | 20.0 mmol, 1.3 g | [C-]#N.[K+]
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-Cyclopropylamino-1-methoxy-piperidine-4-carbonitrile | C1(CC1)NC1(CCN(CC1)OC)C#N | C10H17N3O
